US08685969B2
2-Acetyl-9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide
A cloudy solution of 9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide (20 mg, 0.044 mmol) in THF (0.5 mL) was treated with TEA (0.019 mL, 0.133 mmol) and stirred on an ice-water bath. The mixture was treated with acetic anhydride (nominally 8.40 μl, 0.089 mmol, probably more was added) and the resulting clear solution was stirred at room temperature for 1.5 h. The mixture was concentrated under vacuum, and the residue was purified by preparative HPLC. Effluent fractions containing the desired product were treated with NaHCO3 (aq) and concentrated under vacuum. The resulting aqueous suspension was filtered and the precipitate was washed with water and dried under vacuum to provide the desired product as a white solid (7.0 mg). The filter and aqueous phase were extracted three times with EtOAc, and the organic extracts were dried and concentrated to provide additional desired product as a white solid (1.5 mg) for a total of 8.5 mg (39% yield). LCMS (M+H)+ m/z 492.2, (M+Na)+514.2. 1H NMR (400 MHz, methanol-d4) δ 8.30-8.55 (2 H, m), 7.87-7.97 (1 H, m), 7.83 (1 H, t, J=7.9 Hz), 7.70 (1 H, dd, J=7.7, 1.3 Hz), 7.61-7.68 (1 H, m), 7.44-7.59 (3 H, m), 6.90-7.05 (1 H, m), 3.58-4.61 (4 H, m), 2.86-3.08 (2 H, m), 1.80-2.21 (6 H, multiple singlets).

reactant | 9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 0.044 mmol, 20 mg | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=C2C3=C(NC2=C(C=C1)C(=O)N)CCNC3 | C27H23N5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-Acetyl-9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 7.0 mg, 39% yield | C(C)(=O)N1CC2=C(NC3=C(C=CC(=C23)C2=C(C(=CC=C2)N2C=NC3=CC=CC=C3C2=O)C)C(=O)N)CC1 | C29H25N5O3
